US07074777B2
(2) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(3-ethyl-3-hydroxypentyloxy)-20-methylpregna-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-20-(N,N-dimethylaminocarbonylethoxy)-20-methylpregna-5,7,16-triene (133 mg, 0.20 mmol), anhydrous cerous (III) chloride (2.17 g, 8.8 mmol), ethylmagnesium bromide (8.3 ml, 8.0 mmol) and tetrahydrofuran (10 ml) were subjected to reaction using a procedure similar to that of Example 25(2) (at 0° C. for 1 hour), worked up and purified by preparative thin layer chromatography (2 sheets (each 1.0 mm thickness), hexane:ethyl acetate=5:1) to give the titled compound (70.7 mg, 51.7%) as a colorless oil.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-20-(N,N-dimethylaminocarbonylethoxy)-20-methylpregna-5,7,16-triene | 0.20 mmol, 133 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)OCCC(=O)N(C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C39H69NO4Si2
reactant | cerous (III) chloride | 8.8 mmol, 2.17 g | Cl[Ce](Cl)Cl
reactant | ethylmagnesium bromide | 8.0 mmol, 8.3 ml | C(C)[Mg]Br
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(3-ethyl-3-hydroxypentyloxy)-20-methylpregna-5,7,16-triene | 70.7 mg, 51.7% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)OCCC(CC)(O)CC)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C41H74O4Si2
